US09326987B2
N-[5-(4-{5-[(2-Ethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazol-6-yl)-2-(methyloxy)-3-pyridinyl]methanesulfonamide
6-Bromo-4-{5-[(2-ethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole (170 mg, 0.319 mmol), N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (115 mg, 0.351 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (46.7 mg, 0.064 mmol) and potassium phosphate tribasic (203 mg, 0.958 mmol) were added to a microwave vial and dissolved in 1,4-dioxane (5 ml) and water (0.5 ml). The mixture was heated under microwave irradiation at 100° C. for 20 mins. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The protected compound was dissolved in 1,4-dioxane (1 ml) and sodium hydroxide (1 ml, 2.000 mmol) and stirred at room temperature for 4 h. The mixture was evaporated to dryness under a stream of nitrogen. The residue was partitioned between ethyl acetate (5 ml) and saturated ammonium chloride (2 ml) and separated with a hydrophilic frit. The solvent was removed under a stream of nitrogen and the crude residue was dissolved in DMSO (2 ml) and purified by Mass Directed Automated Preparative HPLC. The appropriate fraction was blown down under a stream of nitrogen to give a yellow solid. The solid was purified further by high pH MDAP (Method E) and the appropriate fraction was blown down under a stream of nitrogen to give the title compound as a white solid (12 mg).

reactant | 6-Bromo-4-{5-[(2-ethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole | 0.319 mmol, 170 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1CC(OCC1)CC | C22H22BrN5O4S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.351 mmol, 115 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.958 mmol, 203 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 2.000 mmol, 1 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.064 mmol, 46.7 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[5-(4-{5-[(2-Ethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazol-6-yl)-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 12 mg | C(C)C1CN(CCO1)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C | C23H27N7O5S
